US05840732
i) Synthesis of 5-(2-pyridyl)methylene-3-[4-(imidazo[1,2-a]pyridin-5-ylthio)butyl]thiazolidine-2,4-dione
To a solution of 1.61 g (5.0 mmol) of 3-[4-(imidazo[1,2-a]pyridin-5-ylthio)butyl]thiazolidine-2,4-dione and 0.54 g (5.0 mmol) of pyridine-2-a!aldehyde in 20 ml of ethanol, 0.05 ml (0.5 mmol) of piperidine was added, followed by refluxing for 6 hours. To the reaction mixture, 0.02 ml (0.2 mmol) of piperidine was added, followed by refluxing for 12 hours. After the reaction mixture was cooled, the solvent was distilled off. The residue was dissolved in chloroform, washed with water and dried, after which the solvent was distilled off. The residue was purified by column chromatography (eluent, ethyl acetate) to yield 1.483 g (72.2%, light yellow crystal) of the desired product.

reactant | 3-[4-(imidazo[1,2-a]pyridin-5-ylthio)butyl]thiazolidine-2,4-dione | 5.0 mmol, 1.61 g | N=1C=CN2C1C=CC=C2SCCCCN2C(SCC2=O)=O | C14H15N3O2S2
reactant | piperidine | 0.5 mmol, 0.05 ml | N1CCCCC1 | C5H11N
reactant | piperidine | 0.2 mmol, 0.02 ml | N1CCCCC1 | C5H11N
reactant | ethanol | 20 ml | C(C)O | C2H6O
product | 5-(2-pyridyl)methylene-3-[4-(imidazo[1,2-a]pyridin-5-ylthio)butyl]thiazolidine-2,4-dione | N1=C(C=CC=C1)C=C1C(N(C(S1)=O)CCCCSC1=CC=CC=2N1C=CN2)=O | C20H18N4O2S2
